US08669361B2
Following Example 231, 5-Chloro-1-methyl-4-nitro-1H-pyrazole and (S)-(−)-3-hydroxypyrrolidine gave (S)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)pyrrolidin-3-ol (250 mg, 96%). 1H NMR (400 MHz, CDCl3) δ 8.05 (s, 1H), 4.64-4.59 (m, 1H), 3.78 (s, 3H), 3.71-3.59 (m, 2H), 3.39 (td, J=8.8, 3.4 Hz, 1H), 3.24 (dt, J=10.2, 1.6 Hz, 1H), 2.34-2.23 (m, 1H), 2.14-2.04 (m, 2H)

reactant | 5-Chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | (S)-(−)-3-hydroxypyrrolidine | O[C@@H]1CNCC1 | C4H9NO
product | (S)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)pyrrolidin-3-ol | 250 mg, 96% | CN1N=CC(=C1N1C[C@H](CC1)O)[N+](=O)[O-] | C8H12N4O3
